US08106064B2
3-(3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-phenyl)-acrylonitrile (131):
To a stirred solution of 3-{3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde (533 mg, 1 mmol) and diethyl cyanomethyl-phosphonate (162 μl, 1 mmol) in THF (10 ml) at 0° C. (ice bath) under nitrogen atmosphere, was added potassium t-butoxide (224 mg, 2 mmol). After stirring for 1 hr., the mixture was stirred for overnight at room temperature. The mixture was then diluted with EA, washed with aqueous saturated ammonium chloride solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:2); The fraction of Rf=0.19 was collected.) to afford 445 mg (80%) of a white foam. 1H NMR (300 MHz, CDCl3) δ 1.10 (6H, d, J=6.9 Hz), 2.32 (3H, s), 2.68 (1H, m), 3.79 (3H, s), 4.31 (2H, d, J=5.5 Hz), 4.73 (2H, s), 5.02 (1H, t, J=5.5 Hz), 5.81 (1H, d, J=16.6 Hz), 5.85 (1H, s), 5.98 (1H, s), 6.64 (2H, s), 6.86-6.89 (2H, m), 6.98 (1H, s), 7.20-7.24 (3H, m), 8.98 (1H, s).

reactant | 3-{3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde | 1 mmol, 533 mg | FC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=O)C=C(C1)C)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C29H29FN4O5
reactant | diethyl cyanomethyl-phosphonate | 1 mmol, 162 μl | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 2 mmol, 224 mg | CC(C)([O-])C.[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-phenyl)-acrylonitrile | 445 mg, 80% | FC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=C(C1)C)C=CC#N)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C31H30FN5O4
